US04343811
2-[1-Ethyl-3-(2-bromo-phenyl)-2-methyl-1H-indole-5-yloxy]-2-methyl-propanoic acid ethylester
The above compound was prepared from 1-ethyl-3-(2-bromo-phenyl)-2-methyl-1H-indole-5-ol and 2-bromo-2-methyl-propanoic acid ethylester analogously to Example 10.

reactant | 1-ethyl-3-(2-bromo-phenyl)-2-methyl-1H-indole-5-ol | C(C)N1C(=C(C2=CC(=CC=C12)O)C1=C(C=CC=C1)Br)C | C17H16BrNO
reactant | 2-bromo-2-methyl-propanoic acid ethylester | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
product | 2-[1-Ethyl-3-(2-bromo-phenyl)-2-methyl-1H-indole-5-yloxy]-2-methyl-propanoic acid ethylester | C(C)OC(C(C)(C)OC=1C=C2C(=C(N(C2=CC1)CC)C)C1=C(C=CC=C1)Br)=O | C23H26BrNO3
